US05641430
Preparation of trans-4-(3,4-difluorophenyloxymethyl)-1-(4-fluorobutyl)-1-silacyclohexane
The general procedure of Example 9 was repeated using 3,4-difluorophenol and 4-bromomethyl-1-(4-fluorobutyl)-1-phenyl-1-silacyclohexane, thereby obtaining the intended compound.

reactant | 3,4-difluorophenol | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | 4-bromomethyl-1-(4-fluorobutyl)-1-phenyl-1-silacyclohexane | BrCC1CC[Si](CC1)(C1=CC=CC=C1)CCCCF | C16H24BrFSi
product | trans-4-(3,4-difluorophenyloxymethyl)-1-(4-fluorobutyl)-1-silacyclohexane | FC=1C=C(C=CC1F)OC[C@@H]1CC[Si@H](CC1)CCCCF | C16H23F3OSi
